US05278174
6-[5-(4-Hydroxypiperidinyl)pentoxy]-2(4-methoxyphenyl-)4H-1-benzopyran-4-one
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, 4 -methoxybenzoyl chloride, 1-bromo-5-chloropentane, and 4-hydroxypiperidine: mp 138°-139° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 4 -methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | 1-bromo-5-chloropentane | BrCCCCCCl | C5H10BrCl
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 6-[5-(4-Hydroxypiperidinyl)pentoxy]-2(4-methoxyphenyl-)4H-1-benzopyran-4-one | OC1CCN(CC1)CCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=C(C=C2)OC)=O)C1 | C26H31NO5
